US06927228B2
(f) N-[4′-(2,4-Dioxothiazolidin-5-ylidenemethyl)-biphenyl-3-ylmethyl]-N-methylbenzamide
1.6 g (4.6 mmol) of N-(4′-Formylbiphenyl-3-ylmethyl)-N-methylbenzamide, 610 mg (4.6 mmol) of 2,4-thiazolidine dione, 137 mg of piperidine acetate and 60 ml of toluene are introduced into a round-bottomed flask under a stream of nitrogen. The mixture is refluxed for five hours and the water formed is separated out using Dean-Stark apparatus. The reaction medium is cooled and the precipitate formed is filtered off and purified on a column of silica with an fluent mixture of heptane and ethyl acetate (70/30). After evaporation of the solvents, 1.4 g (70%) of the expected product are collected.

reactant | N-(4′-Formylbiphenyl-3-ylmethyl)-N-methylbenzamide | 4.6 mmol, 1.6 g | C(=O)C1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(C1=CC=CC=C1)=O)C | C22H19NO2
reactant | 2,4-thiazolidine dione | 4.6 mmol, 610 mg | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | piperidine acetate | 137 mg | C(C)(=O)O.N1CCCCC1
reactant | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | N-[4′-(2,4-Dioxothiazolidin-5-ylidenemethyl)-biphenyl-3-ylmethyl]-N-methylbenzamide | O=C1SC(C(N1)=O)=CC1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(C1=CC=CC=C1)=O)C | C25H20N2O3S
